US06573270B1
4-(tert-butyl)-N-[3-(2-hydroxyethoxy)-1-methyl-4-phenyl-1H-pyrazol-5-yl]-N-[(2-methoxyethoxy)methyl]benzenesulfonamide
To 2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-phenyl-1H-pyrazol-3-yl)oxy]ethyl acetate (Preparation 16) (1.112 g) in solution in methanol (100 ml) was added a solution of potassium carbonate (890 mg) in water (25 ml), at room temperature. The reaction was stirred at room temperature for 1.5 hours, and then overnight. The reaction was stripped down and the residue partitioned between dichloromethane (20 ml) and water (20 ml). The aqueous layer was extracted with dichloromethane (10 ml). The organics were combined and back-washed with brine (10 ml). The solution was dried on magnesium sulfate, filtered and concentrated under reduced pressure to yield the desired product as an off white solid (528 mg)

reactant | 2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-phenyl-1H-pyrazol-3-yl)oxy]ethyl acetate | 1.112 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=CC=C1)N(COCCOC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C28H37N3O7S
reactant | potassium carbonate | 890 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 4-(tert-butyl)-N-[3-(2-hydroxyethoxy)-1-methyl-4-phenyl-1H-pyrazol-5-yl]-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NN1C)OCCO)C1=CC=CC=C1 | C26H35N3O6S
